US09428456B2
1-(3-Methyl-5-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide BB-22a
Methylboronic acid (23.2 mg, 0.377 mmol) and a solution of 2 M Na2CO3 (0.088 mL, 0.502 mmol) is added to a solution of 1-(3-bromo-5-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide BB-10a (100 mg, 0.251 mmol) in anhydrous toluene (3 mL) The mixture is purged under argon for 15 min. Tetrakis(triphenylphosphine)palladium (0) (58 mg, 0.0502 mmol) is added and the mixture is heated to 100° C. overnight. Water (10 mL) and AcOEt (10 mL) are added and the aqueous phase is extracted twice with AcOEt (10 mL). The combined organic phases are dried over MgSO4, filtered and concentrated under reduced pressure. The title compound is obtained by prep. LC-MS F as a colorless powder (61 mg, 73%); LC-MS A: tR=0.63 min; [M+H]+=334.24.

reactant | Methylboronic acid | 0.377 mmol, 23.2 mg | CB(O)O | CH5BO2
reactant | Na2CO3 | 0.502 mmol, 2 M, 0.088 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-(3-bromo-5-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CC(=CC(=C1)[N+](=O)[O-])Br | C17H24BrN3O3
reactant | Water | 10 mL | O | H2O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrakis(triphenylphosphine)palladium | 0.0502 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | AcOEt | 10 mL | CCOC(=O)C | C4H8O2
product | 1-(3-Methyl-5-nitro-benzyl)-piperidine-4-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CC(=CC(=C1)[N+](=O)[O-])C | C18H27N3O3
